US06677368B2
3-[1-[3,5-Dimethyl-4-(4-morpholin-4-yl-piperidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one
5-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (1 eq.) and BOP (1.25 eq.) were suspended in DMF (5 mL) at rt and TEA (2.4 eq.) was added. After 15 mina, to the homogenous reaction mixture was added 4-piperidin-4-yl-morpholine (1.25 eq.) all at once. After stirring for 2 days, the reaction was added to a mixture of chloroform-isopropanol (5:1) and 5% aq. LiCl. The organic layer was separated, washed with 5% aq. LiCl (2×), 1M aq. NaOH (3×), brine, dried and concentrated. The residue was purified to give the titled compound.

reactant | 5-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 1 eq. | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C22H17FN2O3
reactant | BOP | 1.25 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-piperidin-4-yl-morpholine | 1.25 eq. | N1CCC(CC1)N1CCOCC1 | C9H18N2O
reactant | LiCl | [Li+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
product | 3-[1-[3,5-Dimethyl-4-(4-morpholin-4-yl-piperidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one | CC1=C(NC(=C1C(=O)N1CCC(CC1)N1CCOCC1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O | C31H33FN4O3
